US06190650B1
Preparation of 4-Carboxy-3-hydroxybenzylamine terminated dendrimers
Sodium cyanoborohydride (32 mg; 0.5 mmol) was added to a mixture of PAMAM 4.0 (EDA) (69 mg; 0.01 mmol), 4-formyl-2-hydroxybenzoic acid (83 mg; 0.5 mmol), and sodium hydrogen carbonate (42 mg; 0.5 mmol) in water (4 ml). The inhomogeneous orange mixture was stirred for four hours at room temperature, during which time it became homogeneous. The orange solution was then concentrated and the residue purified by gel filtration (Sephadex LH20; water) to give PAMAM 4.0 (EDA) terminated with ca. 32 4-carboxy-3-hydroxybenzylamine groups (91 mg). 1H and 13C nmr (D2O) shows mostly mono alkylation but with some signs of dialkylation of the terminal amino groups, both spectra show broad peaks. 13C nmr (D2O):δ 37.0; 41.1; 50.9; 53.4; 55.5; 55.8; 61.5; 120.9; 122.2; 122.4; 132.3; 132.7; 135.0; 135.8; 163.5; 163.7; 169.0; 178.6; 179.3. 1H nmr (D2O): δ 2.20; 2.35; 2.60; 3.15; 3.30; 3.55; 4.25; 6.68; 7.12; 7.55.

reactant | Sodium cyanoborohydride | 0.5 mmol, 32 mg | C(#N)[BH3-].[Na+]
reactant | 4-formyl-2-hydroxybenzoic acid | 0.5 mmol, 83 mg | C(=O)C1=CC(=C(C(=O)O)C=C1)O | C8H6O4
reactant | sodium hydrogen carbonate | 0.5 mmol, 42 mg | C(O)([O-])=O.[Na+]
solvent | water | 4 ml | O | H2O
product | 4-Carboxy-3-hydroxybenzylamine | C(=O)(O)C1=C(C=C(CN)C=C1)O | C8H9NO3
